US05719141
a) 3(R,S)-Acetyl-1,2,3,4-tetrahydroquinoline
868 mg of 1-benzyl-3(R,S)-acetyl-1,2,3,4-tetrahydroquinoline are hydrogenated to saturation in 100 ml of tetrahydrofuran in the presence of 100 mg of palladium-on-charcoal (10% of Pd) under normal pressure at room temperature. The reaction mixture is filtered and the concentrated filtrate is purified by means of FC over 50 g of silica gel (mobile phase B). This gives the title compound: Rf (A)=0.29; Rf (D)=0.08.

reactant | 1-benzyl-3(R,S)-acetyl-1,2,3,4-tetrahydroquinoline | 868 mg | C(C1=CC=CC=C1)N1CC(CC2=CC=CC=C12)C(C)=O | C18H19NO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium-on-charcoal | 100 mg | [Pd] | Pd
product | 3(R,S)-Acetyl-1,2,3,4-tetrahydroquinoline | C(C)(=O)C1CNC2=CC=CC=C2C1 | C11H13NO
